US09353070B2
2,2-difluoro-2-(5-fluoro-4-nitro-phenoxy)-N,N-dimethyl-acetamide
Nitric acid (100%, 200 mL, 4.8 mol) was cooled to −5° C. 2,2-Difluoro-2-(3-fluoro-phenoxy)-N,N-dimethyl-acetamide (19.0 g, 81.5 mmol) was added at rate to keep the temperature below −2° C. Upon complete addition stirring was continued for 30 min. The reaction mixture was then poured on 450 mg ice-water. The aqueous phase was extracted with TBME (3×100 mL); the combined organic phases were washed with water (100 mL) and brine (100 mL) and dried over MgSO4. Evaporation of the solvent gave the crude product that was purified by preparative HPLC. The product (6.5 g, >98% by HPLC, 28% yield) was obtained as a yellow solid.

reactant | Nitric acid | 4.8 mol, 200 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2,2-Difluoro-2-(3-fluoro-phenoxy)-N,N-dimethyl-acetamide | 81.5 mmol, 19.0 g | FC(C(=O)N(C)C)(OC1=CC(=CC=C1)F)F | C10H10F3NO2
product | 2,2-difluoro-2-(5-fluoro-4-nitro-phenoxy)-N,N-dimethyl-acetamide | 28% yield | FC(C(=O)N(C)C)(OC1=CC=C(C(=C1)F)[N+](=O)[O-])F | C10H9F3N2O4
